US03956363
N-[5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetyl]-glycine - Benzyl-N-[5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetyl]-glycinate (0.003 mole) in a mixture of 25 ml. of anhydrous ethanol and 2.5 ml. of 1 N sodium hydroxide is allowed to stand at room temperature for 18 hours. The solution is diluted with water and extracted with ether. The aqueous layer is acidified with dilute hydrochloric acid and the organic product is extracted with ethyl acetate, washed with water and dried over sodium sulfate. Evaporation of the solution gives N-[5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetyl]-glycine.

reactant | N-[5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetyl]-glycine - Benzyl-N-[5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetyl]-glycinate | 0.003 mole | C(C1=CC=CC=C1)N(CC(=O)O)C(CC1=C(C(C2=CC=C(C=C12)C#N)=CC1=CC=C(C=C1)S(=O)C)C)=O.C(#N)C=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)NCC(=O)O
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | water | O | H2O
product | N-[5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetyl]-glycine | C(#N)C=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)NCC(=O)O | C23H20N2O4S
